US07429581B2
(i) (3,4,5,6-Tetrahydro-2H-[1,4′]bipyridinyl-4-yl)-carbamic acid tert-butyl ester
A solution of 3 g Piperidin-4-yl-carbamic acid tert-butyl ester and 2.5 g 4-Chloropyridine in 9 ml n-butanol/water/NEt3 1:1:1 was heated at 100° C. for 48 h. Then the solution was cooled to RT diluted with DCM and washed with NaHCO3 solution and water. The organic layer was dried over Na2SO4, filtered, and the solvent was removed under reduced pressure. Chromatographic purification of the residue on silica with DCM as eluent gave after evaporation of the fractions containing the product a white foam. Yield 1.7 g.

reactant | Piperidin-4-yl-carbamic acid tert-butyl ester | 3 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | 4-Chloropyridine | 2.5 g | ClC1=CC=NC=C1 | C5H4ClN
solvent | n-butanol water NEt3 | 9 ml | C(CCC)O.O.CCN(CC)CC
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3,4,5,6-Tetrahydro-2H-[1,4′]bipyridinyl-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC=NC=C1)=O | C15H23N3O2
